US07557138B2
4-(4-Chlorobutoxy)-7H-furo[3,2-g][1]benzopyran-7-on
817 mg (4.041 mmol) of 5-hydroxypsoralen and 1.413 g (6.47 mmol) of 4-chlorobutyl iodide were refluxed in 80 ml of acetone in the presence of an excess of (3.0 g) anhydrous potassium carbonate for 30 hours. The progress of the reaction was monitored by thin layer chromatography. After 30 hours the reaction mixture was concentrated under reduced pressure and distilled off the solvent almost completely. The oily residue was cooled and diluted with water. The aqueous solution was then acidified with concentrated hydrochloric acid to pH 1. The slurry was stirred for 15-20 min and extracted with 3×100 ml of dichloromethane. The dichloromethane layer was extracted with 1×25 ml of 1% sodium hydroxide to separate trace amounts of un-reacted 5-hydroxypsoralen. The dichloromethane layer was washed with 30 ml of 2% hydrochloric acid and further washed with water to neutral pH. The dichloromethane layer was dried over anhydrous sodium sulfate and concentrated to dryness. The resulting residue was then suspended in petroleum ether and filtered to wash out the excess 4-chlorobutyl iodide. The resulting 5-(4-chlorobutoxy)psoralen was used for the synthesis of various derivatives without further purification.

reactant | 5-hydroxypsoralen | 4.041 mmol, 817 mg | C1=COC=2C1=C(C3=C(C2)OC(=O)C=C3)O | C11H6O4
reactant | 4-chlorobutyl iodide | 6.47 mmol, 1.413 g | ClCCCCI | C4H8ClI
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 4-(4-Chlorobutoxy)-7H-furo[3,2-g][1]benzopyran-7-on | ClCCCCOC1=C2C(=CC3=C1C=CC(O3)=O)OC=C2 | C15H13ClO4
